US08748012B2
A mixture solution of dibenzo[b,d]thiophen-4-boronic acid (1.84 g, 8.04 mmol), bis(3-bromophenyl)diphenylsilane (9.97 g, 20.17 mmol), Pd(PPh3)4 (0.19 g, 0.16 mmol) and potassium carbonate (6.69 g, 48.4 mmol,) in toluene (60 mL) and water (20 mL) was heated at 100° C. under nitrogen overnight. After cooling to room temperature, the reaction mixture was quenched with water, extracted with DCM, washed with brine and water, and dried over Na2SO4. Upon evaporation of the solvent, the residue was purified by column chromatography on silica gel with hexane:DCM (9.5:0.5 to 9:1, v/v) as eluent. The crude product was dissolved in DCM, precipitated with methanol, and filtered to yield (3-bromophenyl)(3-(dibenzo[b,d]thiophen-4-yl)phenyl)diphenylsilane (3.0 g, 62%) as a white solid.

reactant | dibenzo[b,d]thiophen-4-boronic acid | 8.04 mmol, 1.84 g | C1=CC=C(C=2SC3=C(C21)C=CC=C3)B(O)O | C12H9BO2S
reactant | bis(3-bromophenyl)diphenylsilane | 20.17 mmol, 9.97 g | BrC=1C=C(C=CC1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC(=CC=C1)Br | C24H18Br2Si
reactant | potassium carbonate | 48.4 mmol, 6.69 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.16 mmol, 0.19 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3-bromophenyl)(3-(dibenzo[b,d]thiophen-4-yl)phenyl)diphenylsilane | 3.0 g, 62% | BrC=1C=C(C=CC1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC(=CC=C1)C1=CC=CC2=C1SC1=C2C=CC=C1 | C36H25BrSSi
